US06844344B2
Preparation of (2S)-(+)-1-(4-Benzo[b]furanoxy)-3-(4-(6-fluoronaphth-2-yl)piperidin-1-yl)-2-propanol.
A solution 4-(6-fluoronaphth-2-yl)piperidine (0.075 g, 0.327 mmol) and (S)-(+)-4-(oxiranylmethoxy)benzo[b]furan (0.062 g, 0.327 mmol) in methanol (3 mL) was heated at reflux for 18 hours and then cooled and evaporated. The residue was purified using silica gel chromatography (dichloromethane/5% methanol in dichloromethane gradient elution) to give the final title compound as a white amorphous solid (0.050 g, 37%). FDMS m/e=420 (M++1). [α]D=11.31 (c 0.531, methanol). C26H26FNO3.

reactant | 4-(6-fluoronaphth-2-yl)piperidine | 0.327 mmol, 0.075 g | FC=1C=C2C=CC(=CC2=CC1)C1CCNCC1 | C15H16FN
reactant | (S)-(+)-4-(oxiranylmethoxy)benzo[b]furan | 0.327 mmol, 0.062 g | O1[C@@H](C1)COC1=CC=CC=2OC=CC21 | C11H10O3
solvent | methanol | 3 mL | CO | CH4O
product | (2S)-(+)-1-(4-Benzo[b]furanoxy)-3-(4-(6-fluoronaphth-2-yl)piperidin-1-yl)-2-propanol | 0.050 g, 37% | O1C2=C(C=C1)C(=CC=C2)OC[C@H](CN2CCC(CC2)C2=CC1=CC=C(C=C1C=C2)F)O | C26H26FNO3
